US05571775
22. Preparation of N-(2,6-Dichlorophenyl)-5-methoxy-7-chloro[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide
Sodium methoxide in methanol (1.1 mL of 25 percent solution, 0.26 g, 0.005 mol) was added to a solution of N-(2,6-dichlorophenyl)-5,7-dichloro[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide (0.9 g, 0.02 mol) in dimethyl sulfoxide (30 mL) at ambient temperature with stirring. The reaction was complete in a few minutes, but was stirred for 30 min. The mixture was then acidified with acetic acid and diluted with dichloromethane. The resulting organic phase was recovered and washed with water and the volatiles were removed by evaporation under reduced pressure. The residue obtained was mixed with hexane and the insoluble solids were collected by filtration and dried to obtain 0.8 g (90 percent of theory) of the title compound as a light tan powder melting at 232°-234° C.(d).

reactant | Sodium methoxide | C[O-].[Na+]
reactant | methanol | 0.005 mol, 1.1 mL, 0.26 g | CO | CH4O
reactant | N-(2,6-dichlorophenyl)-5,7-dichloro[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide | 0.02 mol, 0.9 g | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(C=C(C=C2Cl)Cl)=N1 | C12H6Cl4N4O2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | N-(2,6-Dichlorophenyl)-5-methoxy-7-chloro[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(C=C(C=C2OC)Cl)=N1 | C13H9Cl3N4O3S
